US08957203B2
Step 1: Preparation of 1-chloro-7-fluoro-4-hydroxyisoquinoline
A solution of 1-chloro-7-fluoro-4-methoxyisoquinoline (0.75 g, 3.54 mmol) in DCM (10 ml) was added BBr3 (6.22 g, 24.81 mmol) at 0° C. drop wise. The reaction mass was refluxed for 5 h. The residue was cooled and quenched with methanol. The solvent was evaporated under reduced pressure and the residue was diluted with cold water. The precipitated solid was filtered, washed with water to get crude compound (0.65 g, 93%) as a pale yellow solid. 1H NMR (400 MHz, CD3OD): δ ppm 8.36-8.33 (m, 1H), 7.89-7.86 (d, J=12 Hz, 1H), 7.76 (s, 1H), 7.64 (t, J=10 Hz, 1H); MS: MS m/z 198.0 (M++1).

reactant | 1-chloro-7-fluoro-4-methoxyisoquinoline | 3.54 mmol, 0.75 g | ClC1=NC=C(C2=CC=C(C=C12)F)OC | C10H7ClFNO
reactant | BBr3 | 24.81 mmol, 6.22 g | B(Br)(Br)Br | BBr3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-chloro-7-fluoro-4-hydroxyisoquinoline | 0.65 g, 93% | ClC1=NC=C(C2=CC=C(C=C12)F)O | C9H5ClFNO
